### PR TITLE
[Merged by Bors] - feat(Data/Finite/Card): `Nat.card`/`ENat.card` is strictly monotonic on finite sets

### PR DESCRIPTION
**Pull request by SnirBroshi**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finite/Card.lean [hunk 1]
```diff
@@ -178,11 +178,32 @@ namespace Finite
 
 variable {s t : Set α}
 
+theorem card_le_card (ht : t.Finite) (hsub : s ⊆ t) : Nat.card s ≤ Nat.card t := by
+  have : Finite t := ht
+  exact Nat.card_le_card_of_injective (inclusion hsub) (inclusion_injective hsub)
```
Comment (ocfnash) [inline Mathlib/Data/Finite/Card.lean]: Isn't this just `Nat.card_mono` from line 145?

Comment (SnirBroshi) [reply Mathlib/Data/Finite/Card.lean]: Oops, you're right, deleted!
(it's in line 145 in a different file, `SetTheory/Cardinal/Finite.lean`)
I Loogled the rest again to double-check they don't already exist.

File: Mathlib/Data/Finite/Card.lean [hunk 2]
```diff
@@ -179,10 +179,27 @@ namespace Finite
 variable {s t : Set α}
 
 theorem card_lt_card (ht : t.Finite) (hsub : s ⊂ t) : Nat.card s < Nat.card t := by
-  have : Fintype t := Finite.fintype ht
-  have : Fintype s := Finite.fintype (subset ht (subset_of_ssubset hsub))
-  simp only [Nat.card_eq_fintype_card]
-  exact Set.card_lt_card hsub
+  have := ht.fintype
+  have := ht.subset hsub.subset |>.fintype
+  simpa using Set.card_lt_card hsub
```
Comment (ocfnash) [inline Mathlib/Data/Finite/Card.lean]: Please revert to the old proof: it is much easier for a human to follow. In particular removing type ascriptions from `have` statements is all downside.

Golfing is good when it frees us from noisy clutter but not when it makes a proof harder to read. Fewer lines / characters is not a goal (albeit often it is sometimes a manifestation of a good golf).

Separately, even a marginally good golf might not be worth it because there is a cost to code churn (e.g., it obscures `git blame`).

File: Mathlib/Data/Finite/Card.lean [hunk 3]
```diff
@@ -179,10 +179,27 @@ namespace Finite
...
+
+theorem _root_.Set.ecard_le_ecard (hsub : s ⊆ t) : ENat.card s ≤ ENat.card t :=
+  ENat.card_le_card_of_injective <| inclusion_injective hsub
+
+theorem ecard_lt_ecard (hs : s.Finite) (hsub : s ⊂ t) : ENat.card s < ENat.card t := by
+  classical
+  refine lt_of_le_not_ge (ecard_le_ecard hsub.subset) fun hle ↦ not_subset_of_ssubset hsub ?_
```
Comment (ocfnash) [inline Mathlib/Data/Finite/Card.lean]: This proof is very opaque. It could be made much easier to read (and probably to maintain) if you added a series of `suffices`, e.g., starting as follows:
```suggestion
  suffices ENat.card t ≤ ENat.card s → t ⊆ s from
    lt_of_le_not_ge (ecard_le_ecard hsub.subset) fun hle ↦ not_subset_of_ssubset hsub (this hle)
  intro hle
```
I don't insist you do this but I think it would be useful.

**Review by ocfnash — APPROVED** [review]
Thanks, please study my suggestions and then feel free to merge.

bors d+

File: Mathlib/Data/Finite/Card.lean (hunk 3 above)
Comment (SnirBroshi) [reply Mathlib/Data/Finite/Card.lean]: Did this in 9ebe3bf4cd8c1117033d52cccb765b833fe5f313, but FWIW here are my 2 cents:

I think this is much much harder to read (at least to me), and I haven't seen any such proofs with many `suffices` in Mathlib so far. I believe one should use the infoview to read proofs, and adding `suffices` makes it harder to move through the proof to see the infoview change. The `suffices` themselves aren't useful to me unless we also split every `rw` to its own line and its own `suffices`. The result would be 21 lines vs the original 6 lines, and I still claim using the infoview with the 6 lines is better.

As for maintainability I agree adding intermediate goal states is useful, but you can achieve the same effect by having another copy of Mathilb open on the same file before the upgrade that broke it, and look at the intermediate goal states. I think there are some plans to make intermediate goal states available in the docs, which should make this "debug a broken proof" workflow easier.

I think we shouldn't try to make this readable, but rather build a tactic for `ENat`s that would make this entire proof something like `my_untop_tactic; grind`

**Comment by SnirBroshi** [comment]
bors merge

File: Mathlib/Data/Finite/Card.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Data/Finite/Card.lean]: Thanks for these comments, and also for following an optional suggestion despite having reservations!

I still prefer the version with the `suffices` and I think we should follow this pattern much more than we do (albeit not for every combination of tactics that changes the goal). I'm not convinced by the argument about the ergonomics of interacting with the infoview but I wholeheartedly agree that _this_ proof should really be something like `my_untop_tactic; grind`.
